US08119663B2
1-[(4-Hydroxypiperidin-1-yl)carbonyl]-5-[4-(trifluoromethoxy)phenyl]piperidine-3-carboxylic acid [racemic cis isomer]
828 mg (1.92 mmol) of methyl 5-(4-(trifluoromethoxy)phenyl)-1-[(4-hydroxypiperidin-1-yl)carbonyl]piperidine-3-carboxylate were dissolved in 70 ml of methanol, 2159 mg (19.24 mmol) of potassium tert-butoxide were added and the mixture was stirred at 60° C. overnight. For work-up, the reaction solution was diluted with water and acidified with 1N hydrochloric acid (pH 1). The mixture was extracted with ethyl acetate. The combined organic phases were dried with sodium sulphate and concentrated under reduced pressure. Yield: 749 mg (94% of theory)

reactant | methyl 5-(4-(trifluoromethoxy)phenyl)-1-[(4-hydroxypiperidin-1-yl)carbonyl]piperidine-3-carboxylate | 1.92 mmol, 828 mg | FC(OC1=CC=C(C=C1)C1CC(CN(C1)C(=O)N1CCC(CC1)O)C(=O)OC)(F)F | C20H25F3N2O5
reactant | potassium tert-butoxide | 19.24 mmol, 2159 mg | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 1N, pH 1 | Cl | ClH
solvent | methanol | 70 ml | CO | CH4O
solvent | water | O | H2O
product | 1-[(4-Hydroxypiperidin-1-yl)carbonyl]-5-[4-(trifluoromethoxy)phenyl]piperidine-3-carboxylic acid | OC1CCN(CC1)C(=O)N1CC(CC(C1)C1=CC=C(C=C1)OC(F)(F)F)C(=O)O | C19H23F3N2O5
